US04456562
503 Milligrams of p-hydroxybenzaldehyde, 323 mg of hydroxylamine hydrochloride and 10 ml of toluene were introduced to a flask of 50 ml, equipped with a Dean-Stark dehydrating apparatus. The reaction mixture was stirred under reflux for 4 hrs. After the reaction finished, water and MIBK were added to the reaction mixture and mixed, followed by separation into two layers. Aqueous layer was extracted again by MIBK and the extract was combined with toluene layer first separated and subjected to the analysis of the products by gaschromatography [5% PEG 20M, 0.5 m, 190° C. (4 minutes retention)→220° C. (5 minutes retention), 2° C./min]. From the results, it was found that the conversion of p-hydroxybenzaldehyde was 100% and 449 mg (91% yield) of p-cyanophenol and 6.1 mg (1.1% yield) of p-hydroxybenzaldoxime were produced.

reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | hydroxylamine hydrochloride | 323 mg | Cl.NO
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | MIBK | CC(C)CC(=O)C | C6H12O
product | p-cyanophenol | 449 mg, 91% yield | C(#N)C1=CC=C(C=C1)O | C7H5NO
